* NGSPICE file created from u_s_r.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkdlybuf4s25_1 abstract view
.subckt sky130_fd_sc_hd__clkdlybuf4s25_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2b_2 abstract view
.subckt sky130_fd_sc_hd__nand2b_2 A_N B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3_2 abstract view
.subckt sky130_fd_sc_hd__and3_2 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o221a_2 abstract view
.subckt sky130_fd_sc_hd__o221a_2 A1 A2 B1 B2 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlygate4sd3_1 abstract view
.subckt sky130_fd_sc_hd__dlygate4sd3_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a211o_2 abstract view
.subckt sky130_fd_sc_hd__a211o_2 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dfxtp_2 abstract view
.subckt sky130_fd_sc_hd__dfxtp_2 CLK D VGND VNB VPB VPWR Q
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2_2 abstract view
.subckt sky130_fd_sc_hd__or2_2 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_16 abstract view
.subckt sky130_fd_sc_hd__clkbuf_16 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_2 abstract view
.subckt sky130_fd_sc_hd__nor2_2 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3b_2 abstract view
.subckt sky130_fd_sc_hd__and3b_2 A_N B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o211a_2 abstract view
.subckt sky130_fd_sc_hd__o211a_2 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a2111o_2 abstract view
.subckt sky130_fd_sc_hd__a2111o_2 A1 A2 B1 C1 D1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o2bb2a_2 abstract view
.subckt sky130_fd_sc_hd__o2bb2a_2 A1_N A2_N B1 B2 VGND VNB VPB VPWR X
.ends

.subckt u_s_r D[0] D[1] D[2] D[3] Q[0] Q[1] Q[2] Q[3] S_in VGND VPWR clk mode[0] mode[1]
+ rst
XTAP_TAPCELL_ROW_8_33 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_0_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_45 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_68 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_67 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput10 _41_/Q VGND VGND VPWR VPWR Q[1] sky130_fd_sc_hd__clkdlybuf4s25_1
XFILLER_7_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_9_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput11 _42_/Q VGND VGND VPWR VPWR Q[2] sky130_fd_sc_hd__clkdlybuf4s25_1
Xoutput9 _40_/Q VGND VGND VPWR VPWR Q[0] sky130_fd_sc_hd__clkdlybuf4s25_1
XFILLER_3_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_4_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_29_ _37_/B _42_/Q VGND VGND VPWR VPWR _29_/Y sky130_fd_sc_hd__nand2b_2
XFILLER_6_48 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_6_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput12 _43_/Q VGND VGND VPWR VPWR Q[3] sky130_fd_sc_hd__clkdlybuf4s25_1
XTAP_TAPCELL_ROW_2_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_11_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_28_ _36_/A _37_/B _28_/C VGND VGND VPWR VPWR _28_/X sky130_fd_sc_hd__and3_2
XFILLER_1_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_6_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_6_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_28 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_10_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_27_ _30_/B2 _25_/X _26_/X _23_/X _21_/Y VGND VGND VPWR VPWR _27_/X sky130_fd_sc_hd__o221a_2
Xhold13 _43_/Q VGND VGND VPWR VPWR _39_/A1 sky130_fd_sc_hd__dlygate4sd3_1
XFILLER_7_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_26_ _41_/Q _20_/Y _22_/X _24_/Y VGND VGND VPWR VPWR _26_/X sky130_fd_sc_hd__a211o_2
Xhold14 _39_/X VGND VGND VPWR VPWR _43_/D sky130_fd_sc_hd__dlygate4sd3_1
X_43_ _43_/CLK _43_/D VGND VGND VPWR VPWR _43_/Q sky130_fd_sc_hd__dfxtp_2
XFILLER_11_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_42_ _42_/CLK _42_/D VGND VGND VPWR VPWR _42_/Q sky130_fd_sc_hd__dfxtp_2
XFILLER_9_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_11_Left_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_25_ _36_/A _37_/B VGND VGND VPWR VPWR _25_/X sky130_fd_sc_hd__or2_2
Xhold15 _40_/Q VGND VGND VPWR VPWR _30_/B2 sky130_fd_sc_hd__dlygate4sd3_1
Xclkbuf_0_clk clk VGND VGND VPWR VPWR clkbuf_0_clk/X sky130_fd_sc_hd__clkbuf_16
XFILLER_3_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_41_ _42_/CLK _41_/D VGND VGND VPWR VPWR _41_/Q sky130_fd_sc_hd__dfxtp_2
XFILLER_1_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_24_ _36_/A _37_/B VGND VGND VPWR VPWR _24_/Y sky130_fd_sc_hd__nor2_2
XFILLER_10_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xhold16 _27_/X VGND VGND VPWR VPWR _40_/D sky130_fd_sc_hd__dlygate4sd3_1
XFILLER_7_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_40_ _43_/CLK _40_/D VGND VGND VPWR VPWR _40_/Q sky130_fd_sc_hd__dfxtp_2
Xhold17 _41_/Q VGND VGND VPWR VPWR _33_/C sky130_fd_sc_hd__dlygate4sd3_1
XTAP_TAPCELL_ROW_6_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_23_ _36_/A _37_/B _23_/C VGND VGND VPWR VPWR _23_/X sky130_fd_sc_hd__and3b_2
XFILLER_1_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_11_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_22_ _36_/A _37_/B _22_/C VGND VGND VPWR VPWR _22_/X sky130_fd_sc_hd__and3_2
Xhold18 _31_/X VGND VGND VPWR VPWR _41_/D sky130_fd_sc_hd__dlygate4sd3_1
XPHY_EDGE_ROW_11_Right_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_65 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xhold19 _42_/Q VGND VGND VPWR VPWR _35_/A1 sky130_fd_sc_hd__dlygate4sd3_1
XFILLER_10_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_21_ _21_/A VGND VGND VPWR VPWR _21_/Y sky130_fd_sc_hd__inv_2
XFILLER_1_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_3_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_7_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_0_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_68 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput1 D[0] VGND VGND VPWR VPWR _22_/C sky130_fd_sc_hd__clkdlybuf4s25_1
X_20_ _37_/B VGND VGND VPWR VPWR _20_/Y sky130_fd_sc_hd__inv_2
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_9_34 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput2 D[1] VGND VGND VPWR VPWR _28_/C sky130_fd_sc_hd__clkdlybuf4s25_1
XFILLER_10_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_68 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_10_35 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_10_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput3 D[2] VGND VGND VPWR VPWR _32_/C sky130_fd_sc_hd__clkdlybuf4s25_1
XFILLER_7_36 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_6_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput4 D[3] VGND VGND VPWR VPWR _36_/C sky130_fd_sc_hd__clkdlybuf4s25_1
XFILLER_7_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_10_Left_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_10_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput5 S_in VGND VGND VPWR VPWR _23_/C sky130_fd_sc_hd__clkdlybuf4s25_1
XFILLER_7_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_3_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_5_60 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput6 mode[0] VGND VGND VPWR VPWR _36_/A sky130_fd_sc_hd__clkdlybuf4s25_1
XFILLER_8_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_6_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput7 mode[1] VGND VGND VPWR VPWR _37_/B sky130_fd_sc_hd__clkdlybuf4s25_1
XFILLER_4_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_7_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput8 rst VGND VGND VPWR VPWR _21_/A sky130_fd_sc_hd__clkdlybuf4s25_1
XFILLER_10_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_2_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_50 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkbuf_1_0__f_clk clkbuf_0_clk/X VGND VGND VPWR VPWR _43_/CLK sky130_fd_sc_hd__clkbuf_16
X_39_ _39_/A1 _25_/X _37_/X _38_/X _21_/Y VGND VGND VPWR VPWR _39_/X sky130_fd_sc_hd__o221a_2
XFILLER_5_63 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_10_Right_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_52 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_38_ _20_/Y _23_/C _24_/Y _36_/X VGND VGND VPWR VPWR _38_/X sky130_fd_sc_hd__a211o_2
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_32 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_37_ _36_/A _37_/B _42_/Q VGND VGND VPWR VPWR _37_/X sky130_fd_sc_hd__and3b_2
XFILLER_2_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_7_32 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_6_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_36_ _36_/A _37_/B _36_/C VGND VGND VPWR VPWR _36_/X sky130_fd_sc_hd__and3_2
XFILLER_10_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_9_Left_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_65 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_35_ _35_/A1 _25_/X _34_/X _21_/Y VGND VGND VPWR VPWR _42_/D sky130_fd_sc_hd__o211a_2
XFILLER_11_32 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_11_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_45 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_34_ _39_/A1 _20_/Y _24_/Y _32_/X _33_/X VGND VGND VPWR VPWR _34_/X sky130_fd_sc_hd__a2111o_2
XFILLER_5_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_33_ _36_/A _37_/B _33_/C VGND VGND VPWR VPWR _33_/X sky130_fd_sc_hd__and3b_2
XFILLER_8_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkbuf_1_1__f_clk clkbuf_0_clk/X VGND VGND VPWR VPWR _42_/CLK sky130_fd_sc_hd__clkbuf_16
XFILLER_10_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_36 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_1_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_68 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_32_ _36_/A _37_/B _32_/C VGND VGND VPWR VPWR _32_/X sky130_fd_sc_hd__and3_2
XFILLER_5_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_11_36 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_31_ _33_/C _25_/X _28_/X _30_/X _21_/Y VGND VGND VPWR VPWR _31_/X sky130_fd_sc_hd__o221a_2
XPHY_EDGE_ROW_1_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_11_37 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_9_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_11_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_30_ _36_/A _29_/Y _20_/Y _30_/B2 VGND VGND VPWR VPWR _30_/X sky130_fd_sc_hd__o2bb2a_2
XFILLER_3_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_10_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_2_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_2_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_4_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_62 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_5_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_8_Left_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_5_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_9_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_32 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
.ends

